US07176310B1
13. 3-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-ylamino]-propionic acid
A solution of 3-[5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylamino]propionic acid tert-butyl ester in 90% trifluoroacetic acid/water was stirred for 15 min. Toluene (4 mL) was added and the solution was concentrated in vacuo. A series of dilutions and concentrations were performed using acetic acid/toluene (1/1) followed by methanol/toluene (1/1). The resulting solids were triturated with ethyl acetate/hexane (2/1) to afford 61.1 mg (98% yield) of the titled product as a white solid. API-MS m/z 305 (MH)+, 303 (M−H)−.

reactant | 3-[5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylamino]propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C18H21FN4O3
reactant | Toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
product | 3-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-ylamino]-propionic acid | 61.1 mg, 98% yield | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)NCCC(=O)O | C14H13FN4O3
